US08106043B2
N-(4-(2-(2-Hydroxyethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide dihydrochloride:
To a solution of N-(4-(2-(2-hydroxyethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide (165 mg, 0.455 mmol) in methanol (2 mL) was added HCl (1M in diethyl ether; 1.365 mL, 1.365 mmol). The resulting solution was concentrated, giving a yellow solid (197 mg, 99%). 1H NMR (DMSO-d6) δ 11.46 (s, 1H), 9.75 (s, 1H), 9.21-9.09 (m, 2H), 8.74 (s, 1H), 8.21-8.11 (m, 2H), 7.40-7.32 (m, 1H), 7.12 (d, J=8.1 Hz, 1H), 7.03 (s, 1H), 6.62 (d, J=7.8 Hz, 1H), 3.73-3.60 (m, 6H), 3.18-3.07 (m, 4H), 3.06-2.98 (m, 2H); HRMS (C17H23N4OS2, MH+, free base): calculated: 363.1307, observed: 363.1290. HPLC purity: 97% by area.

reactant | N-(4-(2-(2-hydroxyethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide | 0.455 mmol, 165 mg | OCCNCCN1C2=C(SCC1)C=CC(=C2)NC(=N)C=2SC=CC2 | C17H22N4OS2
reactant | HCl | 1.365 mmol, 1M, 1.365 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | N-(4-(2-(2-Hydroxyethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide dihydrochloride | 197 mg, 99% | Cl.Cl.OCCNCCN1C2=C(SCC1)C=CC(=C2)NC(=N)C=2SC=CC2 | InChI=1S/C17H22N4OS2.2ClH/c18-17(16-2-1-10-23-16)20-13-3-4-15-14(12-13)21(8-11-24-15)7-5-19-6-9-22;;/h1-4,10,12,19,22H,5-9,11H2,(H2,18,20);2*1H
